US07994185B2
Step B: N-{2-Chloro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.16 g, 0.27 mmol) and isobutylamine (0.15 g, 2.01 mmol), the title compound was obtained as a pale yellow solid (0.026 g; 14.1% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.79 (s, 1H), 7.84 (d, J=5.3 Hz, 1H), 7.60-7.72 (m, 1H), 7.46-7.51 (m, 1H), 7.43 (t, J=7.6 Hz, 1H), 7.30 (d, J=6.9 Hz, 1H), 7.21 (t, J=9.1 Hz, 2H), 7.12 (d, J=0.5 Hz, 1H), 5.42 (d, J=4.9 Hz, 1H), 3.70 (t, J=4.6 Hz, 4H), 3.44 (t, J=4.6 Hz, 4H), 3.02 (t, J=6.2 Hz, 2H), 0.87 (d, J=6.7 Hz, 9H). MS (ESI) 621.2 [M+H]+.

reactant | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.27 mmol, 0.16 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H17Cl2F2N5O3S2
reactant | isobutylamine | 2.01 mmol, 0.15 g | C(C(C)C)N | C4H11N
product | N-{2-Chloro-3-[5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 14.1% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCC(C)C)N1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C27H27ClF2N6O3S2
